US05593993
A solution of 2.0 g (20.6 mmol) of 2-fluoropyridine in 25 ml of dry THF was cooled to -78° C. was added 25 ml (1.6M in hexanes, 41.6 mmol) n-BuLi under an atmosphere of nitrogen. The mixture was stirred at this temperature for 2 hours before an addition of 4 ml ethylene oxide in 7 ml ether. The mixture was warmed to room temperature, 150 ml ether and 25 ml acetone was added. The precipitate was removed by filtration, and the filtrate was concentrated to 1/3 of volume in vacuo. The remainder was washed once with brine, dried with Na2SO4, and concentrated in vacuo. The crude material was purified by dry column flash chromatography (hexane/EtOAc) to afford 0.42 g of 3-(2-hydroxyethyl)-2-fluoropyridine as a brown oil.

reactant | 2-fluoropyridine | 20.6 mmol, 2.0 g | FC1=NC=CC=C1 | C5H4FN
reactant | n-BuLi | 41.6 mmol, 1.6M, 25 ml | [Li]CCCC
reactant | ethylene oxide | 4 ml | C1CO1 | C2H4O
reactant | acetone | 25 ml | CC(=O)C | C3H6O
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | ether | 7 ml | CCOCC | C4H10O
solvent | ether | 150 ml | CCOCC | C4H10O
product | 3-(2-hydroxyethyl)-2-fluoropyridine | 0.42 g | OCCC=1C(=NC=CC1)F | C7H8FNO
